US09233990B2
Traditional method to make organoaminocarbosilane: Chlorodiethysilane (18.5 g, 151 mmol) was added dropwise to a stirred solution of di-n-propylamine (32.1 g, 317 mmol) in hexanes (250 mL) at −15° C. The resulting white slurry was allowed to warm to room temperature while stirring. The white solids were removed by filtration and the colorless filtrate was purified by vacuum distillation to obtain 22.2 g of N,N-di-n-propylaminodiethylsilane. GC-MS showed the following peaks: 187 (M+), 172 (M-15), 158, 144, 130, 116, 100, 87, 72. This product was determined after hydrolysis to contain 537 ppm chloride.

reactant | Chlorodiethysilane | 151 mmol, 18.5 g | Cl[SiH](CC)CC | C4H11ClSi
reactant | di-n-propylamine | 317 mmol, 32.1 g | C(CC)NCCC | C6H15N
product | N,N-di-n-propylaminodiethylsilane | 22.2 g | C(CC)N(CCC)[SiH](CC)CC | C10H25NSi
